US05130319
(3R,S)-2,5-Dioxo-3-methylhexahydro-1H-pyrrolo[1,2-a]-imidazole
DL-Alaninamide hydrochloride (6.9 g, 0.055 mol) and isobutyl 4-oxobutanoate (7.3 g, 0.046 mol) were reacted together according the procedure of Example 2 to give the title compound, 1.7 g (24%), m.p. 84°-86°. NMR (DMSO-d6): deltaH =8.55 (bs, 1H, NH); 5.20 (t, J=5 Hz, NCHNH); 3.92 (q, J=6.5 Hz, 1H, CHCH3); 2.82-1.50 (c.a., 4H, CH2CH2); 1.17 (d, J=6.5 Hz, 3H, CHCH3). MS (E.I., 70 eV, 1.5 mA) m/z=154 (M+), 111 (M--CHNO+, 98 (M--C3H4O)+.

reactant | DL-Alaninamide hydrochloride | 0.055 mol, 6.9 g | Cl.NC(C)C(=O)N
reactant | isobutyl 4-oxobutanoate | 0.046 mol, 7.3 g | O=CCCC(=O)OCC(C)C | C8H14O3
product | (3R,S)-2,5-Dioxo-3-methylhexahydro-1H-pyrrolo[1,2-a]-imidazole | O=C1N[C@H]2N([C@@H]1C)C(CC2)=O | C7H10N2O2
